US08541575B2
4-iodo-3-(3-nitrophenyl)-1H-pyrazole
2.1 g (11 mmol) of 3-(3-nitrophenyl)-1H-pyrazole were dissolved in 25 ml of dry dimethylformamide and 2.63 g (11.7 mmol) of N-iodosuccinimide were added. After 5 hours under stirring at 70° C. the most part of solvent was removed in vacuo and an aqueous solution of sodium thiosulphate was added and the product extracted several times with dichloromethane. The organic phase was then dried over sodium sulphate and evaporated to give, after trituration with diisopropylether, 2.6 g (74%) of the title compound.

reactant | 3-(3-nitrophenyl)-1H-pyrazole | 11 mmol, 2.1 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC=C1 | C9H7N3O2
reactant | N-iodosuccinimide | 11.7 mmol, 2.63 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 4-iodo-3-(3-nitrophenyl)-1H-pyrazole | 2.6 g, 74% | IC=1C(=NNC1)C1=CC(=CC=C1)[N+](=O)[O-] | C9H6IN3O2
